US07572809B2
Similar procedure as described in example 131 was used, starting from (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine and 2-naphthaleneboronic acid to give (6-methoxy-1-naphthalen-2-yl-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine. LC-MS m/e 367(MH+).

reactant | (1-chloro-6-methoxy-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC(=CC=C12)OC)NC1=NNC=C1 | C13H11ClN4O
reactant | 2-naphthaleneboronic acid | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | (6-methoxy-1-naphthalen-2-yl-isoquinolin-3-yl)-(1H-pyrazol-3-yl)-amine | COC=1C=C2C=C(N=C(C2=CC1)C1=CC2=CC=CC=C2C=C1)NC1=NNC=C1 | C23H18N4O
